US07495003B2
1-(naphth-1-ylmethyl)-3-(methoxycarbonylmethyl)-7-(but-2-ynyl)-8-(3-amino-piperidin-1-yl)-xanthine
0.7 ml of trifluoroacetic acid are added to a solution of 200 mg 1-(naphth-1-ylmethyl)-3-(methoxycarbonylmethyl)-7-(but-2-ynyl)-8-(3-tert-butoxycarbonylamino-piperidin-1-yl)-xanthine in 3 ml dichloromethane. The solution is stirred for 3 h at ambient temperature and then added to ice-cooled aqueous potassium carbonate solution. The aqueous phase is extracted with dichloromethane, the combined organic extracts are dried over sodium sulphate, and the solvent is removed. The residue is purified by chromatography on a silica gel column with methylene chloride/methanol (7:3) as eluant.

reactant | trifluoroacetic acid | 0.7 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | 1-(naphth-1-ylmethyl)-3-(methoxycarbonylmethyl)-7-(but-2-ynyl)-8-(3-tert-butoxycarbonylamino-piperidin-1-yl)-xanthine | 200 mg | C1(=CC=CC2=CC=CC=C12)CN1C(=O)N(C=2N=C(N(C2C1=O)CC#CC)N1CC(CCC1)NC(=O)OC(C)(C)C)CC(=O)OC | C33H38N6O6
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
product | 1-(naphth-1-ylmethyl)-3-(methoxycarbonylmethyl)-7-(but-2-ynyl)-8-(3-amino-piperidin-1-yl)-xanthine | C1(=CC=CC2=CC=CC=C12)CN1C(=O)N(C=2N=C(N(C2C1=O)CC#CC)N1CC(CCC1)N)CC(=O)OC | C28H30N6O4
